US05366982
6-{[4-(4-benzamidophenyl)-6-phenyl-2-pyridyl]oxy}hexanoic acid
To a solution of ethyl 6-{[4-(4-aminophenyl)-6-phenyl-2-pyridyl]oxy}hexanoate (4 g), triethylamine (1.7 cc) and a spatula-tip-full of 4-dimethylaminopyridine (DMAP) in chloroform (40 cc), is slowly added, at room temperature, benzoyl chloride (1.38 cc) in solution in chloroform (20 cc). The temperature rises up to 33° C. The reaction mixture is then stirred at room temperature for 21 hours and then hydrolysed with distilled water (50 cc). The organic phase is decanted. The aqueous phase is extracted with dichloromethane (2×50 cc). The combined organic phases are washed with distilled water until neutrality, dried over sodium sulphate and concentrated to dryness at 40° C. under reduced pressure. The product is used directly in the next reaction after purification by recrystallization in an n-hexane-ethyl acetate (1--1) mixture (100 cc). The procedure in Example 3 is then followed but using the ethyl 6-{[4-(4-benzamidophenyl)-6-phenyl-2-pyridyl]oxy}hexanoate previously obtained, potassium hydroxide pellets (0.7 g) dissolved in distilled water (15 cc) and ethanol (150 cc). The reaction mixture is refluxed for 2 hours. The product is purified by recrystallization in ethyl acetate (50 cc), whitish crystals (m.p.=167°-169° C.)

reactant | ethyl 6-{[4-(4-aminophenyl)-6-phenyl-2-pyridyl]oxy}hexanoate | 4 g | NC1=CC=C(C=C1)C1=CC(=NC(=C1)C1=CC=CC=C1)OCCCCCC(=O)OCC | C25H28N2O3
reactant | triethylamine | 1.7 cc | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 1.38 cc | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | potassium hydroxide | [OH-].[K+]
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | chloroform | 40 cc | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 cc | C(Cl)(Cl)Cl | CHCl3
solvent | water | 15 cc | O | H2O
solvent | ethanol | 150 cc | C(C)O | C2H6O
solvent | water | 50 cc | O | H2O
product | 6-{[4-(4-benzamidophenyl)-6-phenyl-2-pyridyl]oxy}hexanoic acid | C(C1=CC=CC=C1)(=O)NC1=CC=C(C=C1)C1=CC(=NC(=C1)C1=CC=CC=C1)OCCCCCC(=O)O | C30H28N2O4
